US07157487B2
To ethyl 3-chloro-4-(1-indolinylcarbonylamino)phenylacetate (3.07 g, 8.56 mmol) were added 0.25N NaOH (68.4 ml, 17.1 mmol) and THF (70 ml). The mixture was heated and refluxed for 4 hours. After cooling, the reaction mixture was poured in 1N hydrochloric acid (50 ml). The crystals thus precipitated were collected by filtration, and dried under reduced pressure for 12 hours, whereby 3-chloro-4-(1-indolinylcarbonylamino)phenylacetic acid (1.71 g, 60%) was obtained as a colorless crystalline powder.

reactant | ethyl 3-chloro-4-(1-indolinylcarbonylamino)phenylacetate | 8.56 mmol, 3.07 g | ClC=1C=C(C=CC1NC(=O)N1CCC2=CC=CC=C12)CC(=O)OCC | C19H19ClN2O3
reactant | NaOH | 17.1 mmol, 0.25N, 68.4 ml | [OH-].[Na+]
reactant | THF | 70 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 1N, 50 ml | Cl | ClH
product | 3-chloro-4-(1-indolinylcarbonylamino)phenylacetic acid | 1.71 g, 60% | ClC=1C=C(C=CC1NC(=O)N1CCC2=CC=CC=C12)CC(=O)O | C17H15ClN2O3
